US08729061B2
Step B2: (S)-2-(dibenzylamino)butanoic acid
Under an atmosphere of argon, (S)-benzyl 2-(dibenzylamino)butanoate (84 g, 191 mmol, Eq: 1.00) was combined with methanol (136 ml) to give a light yellow solution. Then cold (0° C.) NaOH solution (15.3 g in 150 ml water, 382 mmol, Eq: 2) was added at once to the reaction mixture. The reaction was stirred at 90° C. for 4 h. Upon cooling to RT, the reaction mixture was poured into water (75 ml) and extracted with tert-butyl methyl ether: heptane=1:1 (2×150 ml), to remove the benzylalcohol formed in the hydrolysis. The basic aqueous layer was acidified to pH 2 with HCl (conc.). The aqueous layer was then extracted with ethyl acetate (2×250 ml). The organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The residual solvent was removed under vacuum. The title compound was obtained as a white solid (68.13 g, quant., MS (m/e)=284.1 [M+H+], MS (m/e)=282.3 [M−H+]).

reactant | (S)-benzyl 2-(dibenzylamino)butanoate | 191 mmol, 84 g | C(C1=CC=CC=C1)N([C@H](C(=O)OCC1=CC=CC=C1)CC)CC1=CC=CC=C1 | C25H27NO2
reactant | methanol | 136 ml | CO | CH4O
reactant | NaOH | 382 mmol, 150 ml, 15.3 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 75 ml | O | H2O
product | (S)-2-(dibenzylamino)butanoic acid | C(C1=CC=CC=C1)N([C@H](C(=O)O)CC)CC1=CC=CC=C1 | C18H21NO2
